US08252802B2
Sodium meta-periodate (2.87 g, 13.44 mmol) was added in one portion to (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine (3.68 g, 13.44 mmol) in water (10.00 ml), EtOAc (20 ml) and MeOH (10.00 ml). The resulting solution was stirred at 20° C. for 16 hours. The reaction mixture was diluted with DCM (60 ml) and then filtered. The DCM layer was separated and the aqueous layer washed with DCM (3×40 ml). The organics were combined, dried over MgSO4, filtered and then evaporated. The residue was purified by flash chromatography on silica, eluting with a gradient of 0 to 7% MeOH in DCM. Pure fractions were evaporated to afford (R)-4-(2-chloro-6-(methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine (2.72 g, 70%); 1H NMR (400 MHz, DMSO-d6) 1.22 (3H, d), 2.64 (3H, d), 3.14-3.26 (1H, m), 3.45 (1H, td), 3.59 (1H, dd), 3.73 (1H, d), 3.88-3.96 (2H, m), 4.00 (1H, d), 4.07 (1H, dt), 4.33 (1H, s), 6.81 (1H, s); m/z: (ESI+) MH30, 290.43.

reactant | Sodium meta-periodate | 13.44 mmol, 2.87 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | (R)-4-(2-chloro-6-(methylthiomethyl)pyrimidin-4-yl)-3-methylmorpholine | 13.44 mmol, 3.68 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CSC | C11H16ClN3OS
solvent | water | 10.00 ml | O | H2O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 10.00 ml | CO | CH4O
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | (R)-4-(2-chloro-6-(methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine | 2.72 g, 70% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CS(=O)C | C11H16ClN3O2S
